
.INCLUDE 45nm_HP.pm

*****OPTIONS*******************************************
.OPTIONS GMIN=1e-20 
.option POST
.options AUTOSTOP=NO
.options ABSTOL=1e-18 
.options NUMDGT=4     PIVOT=1e-13
.option MEASDGT=6

****Parameters**********
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM XX=1

****Net-list*************
.subckt nor_gate nodez nodea nodeb node1

* PMOS Transistors
Mp1 node2 nodea node1 node1 pmos W={4*XX*Wmin} L={Lmin} 
Mp2 nodez nodeb node2 node1 pmos W={4*XX*Wmin} L={Lmin} 

* NMOS Transistors
Mn1 nodez nodea 0 0 nmos W={1*XX*Wmin} L={Lmin} 
Mn2 nodez nodeb 0 0 nmos W={1*XX*Wmin} L={Lmin}

.ends nor_gate

