.INCLUDE 45nm_HP.pm

*****OPTIONS*******************************************
.OPTIONS GMIN=1e-20 
.option POST
.options AUTOSTOP=NO
.options ABSTOL=1e-18 
.options NUMDGT=4     PIVOT=1e-13
.option MEASDGT=6

****Parameters**********
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM XX=1

****Include external subcircuit files*****
.INCLUDE "./nor.net"         ; Path to your NOR gate subcircuit
.INCLUDE "./inverter_edited.net" ; Path to your inverter subcircuit

**** OR Gate Definition ********
.subckt or_gate input_a input_b output node1 
* Step 1: Use a NOR gate
Xnor nornet input_a input_b node1 node2 nor_gate
* Step 2: Invert the NOR gate's output
Xinverter output nornet node1 inverter
.ends or_gate


