.INCLUDE 45nm_HP.pm

*****OPTIONS*******************************************
.OPTIONS GMIN=1e-20 
.option POST
.options AUTOSTOP=NO
.options ABSTOL=1e-18 
.options NUMDGT=4     PIVOT=1e-13
.option MEASDGT=6

****Parameters**********
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM XX=1

****Include external subcircuit files*****
.INCLUDE "./nor.net"         ; Path to your nor gate subcircuit
.INCLUDE "./inverter_edited.net" ; Path to your inverter subcircuit

**** xnor Gate Definition ********
.subckt xnor_gate output input_a input_b node1
* Step 1: Use a nor gate
Xnor1 nor_op1 input_a input_b node1 nor_gate
Xnor2 nor_op2 input_a nor_op1 node1 nor_gate
Xnor3 nor_op3 input_b nor_op1 node1 nor_gate
Xnor4 output nor_op3 nor_op2 node1 nor_gate

.ends xnor_gate




