.INCLUDE 45nm_HP.pm

*****OPTIONS*******************************************
.OPTIONS GMIN=1e-20 
.option POST
.options AUTOSTOP=NO
.options ABSTOL=1e-18 
.options NUMDGT=4     PIVOT=1e-13
.option MEASDGT=6

****Parameters**********
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM XX=1

****Include external subcircuit files*****
.INCLUDE "./nand.net"         ; Path to your nand gate subcircuit
.INCLUDE "./inverter_edited.net" ; Path to your inverter subcircuit

**** XOR Gate Definition ********
.subckt xor_gate output input_a input_b node1
* Step 1: Use a nand gate
Xnand1 nand_op1 input_a input_b node1 nand_gate
Xnand2 nand_op2 input_a nand_op1 node1 nand_gate
Xnand3 nand_op3 input_b nand_op1 node1 nand_gate
Xnand4 output nand_op3 nand_op2 node1 nand_gate

.ends xor_gate

